US05071844
(S)-2-(2-Chloroethyl)-1-(4-methoxyphenethyl)pyrrolidine hydrochloride
Thionyl chloride (2ml) was added slowly to a solution of (S)-2-(2-hydroxyethyl)-1-(4-methoxyphenethyl)pyrrolidine (see Preparation 9) (3.0 g) in dichloromethane (30 ml). The mixture was heated under reflux for 2 hours and evaporated under reduced pressure to give the title compound as a brown oil, (4.15 g), which was characterised by NMR and used directly in Example 5 without further purification.

reactant | Thionyl chloride | 2ml | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-2-(2-hydroxyethyl)-1-(4-methoxyphenethyl)pyrrolidine | 3.0 g | OCC[C@H]1N(CCC1)CCC1=CC=C(C=C1)OC | C15H23NO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (S)-2-(2-Chloroethyl)-1-(4-methoxyphenethyl)pyrrolidine hydrochloride | 4.15 g | Cl.ClCC[C@H]1N(CCC1)CCC1=CC=C(C=C1)OC | InChI=1S/C15H22ClNO.ClH/c1-18-15-6-4-13(5-7-15)9-12-17-11-2-3-14(17)8-10-16;/h4-7,14H,2-3,8-12H2,1H3;1H/t14-;/m0./s1
